US07777047B2
N-{2-[5-(1,4-dioxa-8-azaspiro[4.5]dec-8-ylmethyl)-5-methyl-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
To a solution of triphenylphosphine oxide (0.83 g) in dichloromethane (6 mL) was slowly added trifluoromethanesulfonic anhydride (0.25 mL) at 0° C., and the mixture was added for 10 min. N-[2-(benzylthio)-3-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-2-methylpropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (0.72 g) and dimethylsulfide (0.22 mL) were added, and the reaction mixture was stirred at 0° C. for 20 min. Saturated aqueous sodium hydrogencarbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio) to give the title compound (0.28 g, yield 50%) as colorless crystals. melting point 172-173° C.

reactant | triphenylphosphine oxide | 0.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.25 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(benzylthio)-3-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-2-methylpropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.72 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)(CN1CCC2(OCCO2)CC1)C | C32H38N4O5S3
reactant | dimethylsulfide | 0.22 mL | CSC | C2H6S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | N-{2-[5-(1,4-dioxa-8-azaspiro[4.5]dec-8-ylmethyl)-5-methyl-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.28 g, yield 50% | O1CCOC12CCN(CC2)CC2(CN=C(S2)C=2NC1=C(C=CC=C1C2)N(S(=O)(=O)C=2SC=CC2)C)C | C25H30N4O4S3
